US08247421B2
Step 11: 2-(isopropylamino)-4-(5-(phenylamino)-1H-pyrrolo[2,3-b]pyridin-3-yl)pyrimidine-5-carbonitrile
2-(isopropylamino)-4-(5-(phenylamino)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-3-yl)pyrimidine-5-carbonitrile (0.083 g, 0.158 mmol) was stirred in THF (7 mL) and water (1.5 mL) and treated with LiOH.H20 (0.066 g, 1.60 mmol, 10.0 Eq) and allowed to stir at room temperature for 16 hours. The reaction mixture was concentrated and purified by column chromatography (50% EtOAc/Petroleum ether) to yield the product as a yellow solid (29 mg, 50%)

reactant | 2-(isopropylamino)-4-(5-(phenylamino)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-3-yl)pyrimidine-5-carbonitrile | 0.158 mmol, 0.083 g | C(C)(C)NC1=NC=C(C(=N1)C1=CN(C2=NC=C(C=C21)NC2=CC=CC=C2)S(=O)(=O)C2=CC=C(C)C=C2)C#N | C28H25N7O2S
reactant | water | 1.5 mL | O | H2O
reactant | LiOH | [Li+].[OH-]
solvent | THF | 7 mL | C1CCOC1 | C4H8O
product | 2-(isopropylamino)-4-(5-(phenylamino)-1H-pyrrolo[2,3-b]pyridin-3-yl)pyrimidine-5-carbonitrile | 29 mg, 50% | C(C)(C)NC1=NC=C(C(=N1)C1=CNC2=NC=C(C=C21)NC2=CC=CC=C2)C#N | C21H19N7
